US07691892B2
g) 4-{5-[2-(3-Chloro-phenyl)-2H-tetrazol-5-ylmethoxy]-4-cyclopropyl-4H-[1,2,4]triazol-3-yl}-pyridine
The title compound is prepared from [2-(3-chloro-phenyl)-2H-tetrazol-5-yl]-methanol (1 mmol), sodium hydride (1.5 mmol) and 4-(4-cyclopropyl-5-methanesulfonyl-4H-[1,2,4]triazol-3-yl)-pyridine (1.25 mmol).

reactant | [2-(3-chloro-phenyl)-2H-tetrazol-5-yl]-methanol | 1 mmol | ClC=1C=C(C=CC1)N1N=C(N=N1)CO | C8H7ClN4O
reactant | sodium hydride | 1.5 mmol | [H-].[Na+]
reactant | 4-(4-cyclopropyl-5-methanesulfonyl-4H-[1,2,4]triazol-3-yl)-pyridine | 1.25 mmol | C1(CC1)N1C(=NN=C1S(=O)(=O)C)C1=CC=NC=C1 | C11H12N4O2S
product | 4-{5-[2-(3-Chloro-phenyl)-2H-tetrazol-5-ylmethoxy]-4-cyclopropyl-4H-[1,2,4]triazol-3-yl}-pyridine | ClC=1C=C(C=CC1)N1N=C(N=N1)COC=1N(C(=NN1)C1=CC=NC=C1)C1CC1 | C18H15ClN8O
